US08212032B2
A mixture of N-({4-bromo-2-[(trifluoromethyl)oxy]phenyl}methyl)-3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide (60 mg, 0.116 mmol), morpholine (20.21 mg, 0.232 mmol), Pd2(dba)3 (5.31 mg, 5.80 μmol), BINAP (5.42 mg, 8.70 μmol) and cesium carbonate (76 mg, 0.232 mmol) in 1,4-Dioxane (2 ml) was irradiated via microwave reactor for 20 min at 170° C. The crude reaction mixture was passed through a 2 gram SCX ion-exchange column. The column was flushed with MeOH, then it was flushed with 2N NH3 in MeOH. The NH3 solution was collected and the solvent was evacuated to give a residue which was purified by preparative HPLC, resulting in 3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}-N-({4-(4-morpholinyl)-2-[(trifluoromethyl)oxy]phenyl}methyl)cyclohexanecarboxamide (15 mg, 0.022 mmol, 19%). MS (ES) m/e 524 [M+H]+.

reactant | N-({4-bromo-2-[(trifluoromethyl)oxy]phenyl}methyl)-3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide | 0.116 mmol, 60 mg | BrC1=CC(=C(C=C1)CNC(=O)C1CC(CCC1)NC1=NC(=NC(=N1)C)NC)OC(F)(F)F | C20H24BrF3N6O2
reactant | morpholine | 0.232 mmol, 20.21 mg | N1CCOCC1 | C4H9NO
reactant | BINAP | 8.70 μmol, 5.42 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.232 mmol, 76 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-Dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 5.80 μmol, 5.31 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}-N-({4-(4-morpholinyl)-2-[(trifluoromethyl)oxy]phenyl}methyl)cyclohexanecarboxamide | 0.022 mmol, 15 mg, 19% | CC1=NC(=NC(=N1)NC)NC1CC(CCC1)C(=O)NCC1=C(C=C(C=C1)N1CCOCC1)OC(F)(F)F | C24H32F3N7O3
